US08119657B2
(S)-2-Amino-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one hydrochloride (also referred to herein as S-AV1013.HCl) was prepared on a preparative scale using two different routes to obtain the intermediate isopropylpyrazolo[1,5-a]pyridine (IPPP). In the first approach (method 1), ibudilast was employed as the starting material to obtain IPPP; an alternate synthetic approach (method 2) employed ibudilast acid as the starting material.

reactant | (S)-2-Amino-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one hydrochloride | Cl.N[C@H](C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C
reactant | HCl | Cl | ClH
product | isopropylpyrazolo[1,5-a]pyridine | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
